US08975400B2
2-(4-chloro-3-(trifluoromethyl)phenoxy)-5-(((5-oxo-1,2,3,5-tetrahydroimidazo[1,2-c]pyrimidin-7-yl)oxy)methyl)benzonitrile
Prepared in a manner similar to that described for E60 using tert-butyl 7-((4-(4-chloro-3-(trifluoromethyl)phenoxy)-3-cyanobenzyl)oxy)-5-oxo-2,3-dihydroimidazo[1,2-c]pyri-midine-1(5H)-carboxylate (150 mg, 0.266 mmol) and TFA (5 ml, 64.9 mmol) in DCM (5 mL).

reactant | tert-butyl 7-((4-(4-chloro-3-(trifluoromethyl)phenoxy)-3-cyanobenzyl)oxy)-5-oxo-2,3-dihydroimidazo[1,2-c]pyri-midine-1(5H)-carboxylate | 0.266 mmol, 150 mg | ClC1=C(C=C(OC2=C(C=C(COC=3C=C4N(C(N3)=O)CCN4C(=O)OC(C)(C)C)C=C2)C#N)C=C1)C(F)(F)F | C26H22ClF3N4O5
reactant | TFA | 64.9 mmol, 5 ml | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | DCM | 5 mL | C(Cl)Cl | CH2Cl2
product | 2-(4-chloro-3-(trifluoromethyl)phenoxy)-5-(((5-oxo-1,2,3,5-tetrahydroimidazo[1,2-c]pyrimidin-7-yl)oxy)methyl)benzonitrile | ClC1=C(C=C(OC2=C(C#N)C=C(C=C2)COC=2C=C3N(C(N2)=O)CCN3)C=C1)C(F)(F)F | C21H14ClF3N4O3
